US05814653
6-(t-butoxycarbonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
To a solution of 0.44 gm (0.91 mMol) 6-(t-butoxycarbonyl)amino-3-(dimethyl)amino-9-triisopropylsilyl-1,2,3,4-tetrahydro-9H-carbazole in 10 mL tetrahydrofuran at 0° C. were added 0.30 gm boric acid followed by 1.5 mL 1M aqueous tetrabutylammonium fluoride. After 3 hours the reaction mixture was added to dilute aqueous tartaric acid and the resulting mixture extracted several times with dichloromethane. The remaining aqueous phase was made basic with dilute aqueous sodium hydroxide and extracted well with dichloromethane. This organic phase was dried over sodium sulfate and concentrated under reduced pressure. This residue was subjected to radial chromatography (2 mm silica gel), eluting with 96:4 chloroform:methanol containing 5% ammonium hydroxide. Fractions shown to contain product were combined and concentrated under reduced pressure to give 0.246 gm (83%) of the desired product.

reactant | 6-(t-butoxycarbonyl)amino-3-(dimethyl)amino-9-triisopropylsilyl-1,2,3,4-tetrahydro-9H-carbazole | 0.91 mMol, 0.44 gm | C(C)(C)(C)OC(=O)NC=1C=C2C=3CC(CCC3N(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)N(C)C | C28H47N3O2Si
reactant | boric acid | 0.30 gm | B(O)(O)O | BH3O3
reactant | tetrabutylammonium fluoride | 1M, 1.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-(t-butoxycarbonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.246 gm, 83% | C(C)(C)(C)OC(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C19H27N3O2
